US03931235
To a solution of 8.0 g. (0.051 mole) of 4-hydroxy-3-mercapto-6-methyl-2-pyrone in 38 ml. of pyridine was added 6.4 g. (0.051 mole) of benzyl chloride portionwise with stirring at room temperature. The reaction was slightly exothermic, the temperature rising from 23° to 30°C. The reaction mixture was stirred at room temperature for 30 minutes, and then heated on the steam bath for one hour at 90°-95°C. The reaction mixture was then cooled to room temperature and poured into a mixture of ice and 80 ml. of concentrated hydrochloric acid. The gummy precipitate, thus formed, was extracted with methylene chloride. The extract was dried over anhydrous sodium sulfate, filtered and evaporated to dryness to give 7.7 g. (61%) of brown oil, which was crystallized from toluene, containing a little methylcyclohexane, to give 5.0 g. of yellow-brown crystals, m.p. 117°-126°C. Recrystallization of this substance from toluene gave the pure 3-benzylthio-4hydroxy-6-methyl-2-pyrone as cream colored crystals, m.p. 127.5°-128.5°C.

reactant | 4-hydroxy-3-mercapto-6-methyl-2-pyrone | 0.051 mole | OC1=C(C(OC(=C1)C)=O)S | C6H6O3S
reactant | benzyl chloride | 0.051 mole | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-benzylthio-4hydroxy-6-methyl-2-pyrone | C(C1=CC=CC=C1)SC=1C(OC(=CC1O)C)=O | C13H12O3S
